US07601716B2
(2,5-Difluorophenyl)-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)methanone
7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (614 mg) was reacted with 2,5-difluorobenzoyl chloride as in General Procedure 2 to give the title compound as an off-white foam (47% yield). M.p. foam, LCMS: m/z=402.20 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.70-1.90 (m, 2H), 3.50-3.65 (m, 2H), 5.29 (bs, 1H), 6.99 (s, 1H), 7.10-7.18 (m, 2H), 7.20-7.25 (m, 1H), 7.99 (s, 1H).

reactant | 7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 614 mg | IC1=CC2=C(NCCN2)N=C1 | C7H8IN3
reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
product | (2,5-Difluorophenyl)-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)methanone | 47% yield | FC1=C(C=C(C=C1)F)C(=O)N1C2=C(NCC1)N=CC(=C2)I | C14H10F2IN3O
